Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abnormal labs, hiccups  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For complete H&P see medicine nightfloat admission note, but in 
brief, ___ w/ PMH of cauda equina syndrome s/p L4-L5 
laminectomy (residual fecal incontinence and urinary 
incontinence, for which he straight caths), CHFpEF, HTN, HLD, ___ 
vascular insufficiency and other issues who came to the ED with 
persistent hiccups and was found to have new ___ and 
___.  The patient went to his PCPs office and saw an 
NP there for hiccups lasting 6 days on ___ (2d ago).  At that 
visit he reported that this was limiting his PO intake.  He also 
reported constipation, for which he consumed an entire bottle of 
milk of magnesia (magnesium hydroxide) without relief.  Las 
drawn at that visit returned with a Cr of 2.8 (up from baseline 
1.2 in ___ at which point he was called and advised to go 
to the ED. He also had a mild ___ to AST/ALT 88/81.  
He was sent home form that visit on Omeprazole 20 mg PO QD.  2d 
prior to admission, the patient also complained of subjective 
fevers and feeling dry mouth.  In the ED, he was febrile to 
102.7, other VS were unremarkable.  Labs notable for BUN/Cr 
51/2.2, ALT/AST 116/120, UA w/ >182 WBCs, 33 RBCs, and many 
bacteria (0 epis), WBC 13 w/ 78% PMNs and 3% bands.  CXR showed 
retrocardiac opacities, atelectasis vs. infection.  He was given 
1g Acetaminophen, started on Ceftriaxone and admitted.

On current evaluation, he was comfortable and his only complaint 
was hiccups.

ROS was positive only for hiccups; he denied chills, sweats, 
weight loss. He denied any other localizing symptom: cough, 
dyspnea, chest pain, nausea, vomiting, diarrhea, constipation, 
rhinorrhea, nasal congestion, pharyngitis, headache, sick 
contacts, change in stool color or caliber, difficulty with 
walking or flank pain.  

 
Past Medical History:
-HTN
-HLD
-CHFpEF (no recent echo)
-___ vascular insufficiency
-Cauda equina syndrome s/p L4-L5 laminectomy in ___, residual 
stool incontinence and urge incontinence as a result
-Hx of frostbite from exposure during ___ war
-Bilateral knee replacements (at ___  
 
Social History:
___
Family History:
no family history of DM, HTN, MI or cancers. Mother died at ___ 
and father at ___ from natural causes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
#ERROR!

VITALS - T 101.3, BP 133/52, HR 91, R 16, SPO2 100%/RA, 109.8 kg 
 
 GENERAL - appears younger than stated age, well-appearing, 
hiccupping  
 HEENT - sclerae anicteric, PERRL, EOMI, moist mucous membranes  

 NECK - soft, no palpable cervical adenopathy  
 CARDIAC - regular, normal S1/S2, no murmurs, though difficult 
to hear clearly given hiccupping  
 PULMONARY - clear to auscultation without wheezing or crackles  

 ABDOMEN - obese, soft, non-tender, non-distended, tympanitic, 
negative ___ sign, liver and spleen not palpable, normal 
bowel sounds  
 EXTREMITIES - warm, well-perfused, ___ pitting edema ___ up 
shins bilaterally,  
 SKIN - xerosis, most notable on ___ bilaterally  
 NEURO - face symmetric, moving all extremities well, oriented 
x3  
 PSYCH - appropriate  

DISCHARGE PHYSICAL EXAM:
#ERROR!

VITALS: 98.8 ___ 20 100% RA.  No BM since 
admission
GENERAL: appears younger than stated age, NAD, mental status 
much improved back to baseline.  Not hiccupping today.
HEENT: sclerae anicteric, PERRL, EOMI, moist mucous membranes  
NECK: soft, no palpable cervical adenopathy  
CARDIAC: regular, normal S1/S2, no murmurs, distant heart sounds
PULMONARY: clear to auscultation without wheezing or crackles  
ABDOMEN: obese, soft, non-tender, non-distended, tympanitic, 
negative ___ sign, liver and spleen not palpable, normal 
bowel sounds  
EXTREMITIES: warm, well-perfused, lichenification and xerosis of 
skin of LEs, trace pitting edema ___ up shins bilaterally, LUE 
with nonpitting edema new compared with admission
SKIN: xerosis, most notable on LEs and UEs bilaterally  
NEURO: face symmetric, moving all extremities well
PSYCH: AOx3
 
Pertinent Results:
ADMISSION LABS:
#ERROR!

___ 09:15PM BLOOD WBC-13.0*# RBC-3.86* Hgb-10.9* Hct-32.1* 
MCV-83 MCH-28.2 MCHC-34.0 RDW-14.1 RDWSD-42.5 Plt ___
___ 09:15PM BLOOD Neuts-78* Bands-3 Lymphs-12* Monos-6 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-10.53* 
AbsLymp-1.56 AbsMono-0.78 AbsEos-0.13 AbsBaso-0.00*
___ 07:19AM BLOOD ___ PTT-29.5 ___
___ 09:15PM BLOOD Glucose-105* UreaN-51* Creat-2.2*# Na-134 
K-4.0 Cl-91* HCO3-29 AnGap-18

___ 11:15PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 11:15PM URINE Blood-MOD Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 11:15PM URINE RBC-33* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-0
___ 11:15PM URINE WBC Clm-MANY
___ 04:43AM URINE Hours-RANDOM UreaN-567 Creat-75 Na-22 
K-21 Cl-20
___ 04:43AM URINE Osmolal-321

PERTINENT LABS:
#ERROR!

___ 07:40AM BLOOD Parst S-NEGATIVE
___ 09:15PM BLOOD Glucose-105* UreaN-51* Creat-2.2*# Na-134 
K-4.0 Cl-91* HCO3-29 AnGap-18
___ 03:20PM BLOOD Glucose-97 UreaN-19 Creat-1.3* Na-139 
K-4.7 Cl-103 HCO3-25 AnGap-16
___ 07:24AM BLOOD Glucose-89 UreaN-24* Creat-1.5* Na-137 
K-4.7 Cl-105 HCO3-24 AnGap-13
___ 09:15PM BLOOD ALT-116* AST-120* AlkPhos-85 TotBili-0.4
___ 07:19AM BLOOD ALT-105* AST-104* LD(___)-316* AlkPhos-76 
TotBili-0.4
___ 07:40AM BLOOD ALT-84* AST-62* LD(LDH)-236 AlkPhos-84 
TotBili-0.4
___ 07:15AM BLOOD ALT-76* AST-55* LD(LDH)-261* AlkPhos-82 
TotBili-0.3
___ 07:27AM BLOOD ALT-104* AST-101* LD(LDH)-300* 
CK(CPK)-256 AlkPhos-87 TotBili-0.3
___ 06:52AM BLOOD ALT-118* AST-104* LD(___)-261* AlkPhos-86 
TotBili-0.3
___ 03:20PM BLOOD ALT-150* AST-110* LD(___)-272* AlkPhos-83 
TotBili-0.2
___ 07:58AM BLOOD ALT-145* AST-94* LD(___)-234 AlkPhos-78 
TotBili-0.3
___ 09:15PM BLOOD Albumin-3.2*
___ 06:52AM BLOOD Albumin-2.3* Calcium-7.7* Phos-3.5 Mg-2.3
___ 03:20PM BLOOD Albumin-2.8* Calcium-8.6 Phos-4.0 Mg-2.0
___ 07:19AM BLOOD Calcium-7.2* Phos-3.5 Mg-3.1*
___ 07:24AM BLOOD Calcium-8.3* Phos-4.1 Mg-1.8
___ 07:27AM BLOOD TSH-1.3
___ 09:15PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 07:19AM BLOOD HIV Ab-Negative
___ 09:15PM BLOOD HCV Ab-NEGATIVE

PERTINENT IMAGING:
#ERROR!

CT head ___:
FINDINGS:  
There is no evidence of acute territorial infarction, 
hemorrhage, edema, or mass. Periventricular, subcortical and 
deep white matter hyperintensities are likely sequelae of 
chronic small vessel ischemic disease. There is prominence of 
the ventricles and sulci suggestive of involutional changes. 
No brainstem lesions are identified, within the confines of CT 
technique. 
Incidentally noted incompletely characterize is apparent 
prominence of the 
pituitary gland which measures approximately 1 cm in SI 
dimension (series 
305b, image 36), larger than would be expected for patient's 
gender and age. 
  
There is no evidence of fracture.  Mild mucosal thickening of 
the right 
maxillary sinus, and posterior right ethmoidal air cells are 
noted.  Small 
right sphenoid mucous retention cyst is noted.  The additional 
visualized 
portion of the paranasal sinuses, mastoid air cells, and middle 
ear cavities are clear.  The visualized portion of the orbits 
are unremarkable. 
  
IMPRESSION: 
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically, no large intracranial mass or lesion to explain 
patient's symptoms. 
2. Apparent enlargement of the pituitary gland, incompletely 
characterized on noncontrast head CT.  Clinical correlation and 
if indicated and not 
contraindicated, MRI pituitary with without contrast could be 
performed for further evaluation. 
3. Chronic changes as described above. 
4. Of note MR with contrast is more targeted towards the 
assessment of AV 
malformation and subtle mass lesions. 

Thyroid US ___:
FINDINGS:  
The right lobe measures: (transverse) 1.9 x (anterior-posterior) 
1.7 x 
(craniocaudal) 4.8 cm. 
The left lobe measures: (transverse) 2.3 x (anterior-posterior) 
1.9 x 
(craniocaudal) 4.8 cm. 
Isthmus anterior-posterior diameter is 0.2 cm. 
Thyroid parenchyma is homogenous and has normal vascularity. 
  
IMPRESSION:  
Normal thyroid ultrasound. 

LUE US ___:
IMPRESSION:  
No evidence of deep vein thrombosis in the left upper extremity. 


CT Chest ___:
 
FINDINGS:  
The thyroid is normal. Supraclavicular, axillary, mediastinal 
and hilar lymph nodes are not enlarged. Aorta and pulmonary 
arteries are normal size. Cardiac configuration is normal and 
there is no appreciable coronary calcification. 
  
The central airways are patent.  Posterior pouching of the 
tracheal wall is noted without concerning features.  Mild right 
basilar atelectasis is noted.  Additionally, a focal area of 
ground-glass opacities seen in the right upper lobe, which may 
reflect subclinical aspiration (series 4, image 105).  The lungs 
are otherwise clear without focal consolidation concerning for 
pneumonia or concerning nodules.  There is no pleural effusion 
or pneumothorax.  Elevation of the right hemidiaphragm with 
eventration is noted, with mild protrusion of the upper right 
hepatic lobe (series 602b, image 45, series 601b, image 51). 
  
The upper esophagus is patulous and contains debris.  There is a 
small hiatal hernia.  The visualized portion of the upper 
abdomen is unremarkable.  Multilevel degenerative changes are 
present in the midthoracic spine.  There are no suspicious 
osseous lesions. 
  
IMPRESSION:  
  
1.  Right diaphragmatic eventration with mild protrusion of the 
upper right hepatic lobe. 
2.  Mild right basilar atelectasis may account for the 
radiographic finding. 
3.  Small ground glass opacity in the right upper lobe may 
reflect subclinical aspiration. 
  
RUQ US ___:
IMPRESSION: 
1. No liver lesion identified. 
2. Cholelithiasis without evidence of cholecystitis. 
3. Mild right-sided hydronephrosis and hydroureter without 
evidence of stones and a distended bladder with multiple 
diverticula suggesting incomplete voiding which could be the 
cause of the right-sided hydronephrosis. Follow up imaging could 
be obtained if clinically indicated. 

PERTINENT MICRO:
#ERROR!

Time Taken Not Noted     Log-In Date/Time: ___ 4:44 am
      URINE     Site: NOT SPECIFIED

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 11:15 pm URINE      MICRO # ___ ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

___  BLOOD CULTURE Blood Culture, Routine-Negative
___  BLOOD CULTURE Blood Culture, Routine-Negative

DISCHARGE LABS:
#ERROR!

___ 07:58AM BLOOD WBC-13.8* RBC-3.14* Hgb-8.9* Hct-26.5* 
MCV-84 MCH-28.3 MCHC-33.6 RDW-14.8 RDWSD-45.2 Plt ___
___ 07:24AM BLOOD Glucose-89 UreaN-24* Creat-1.5* Na-137 
K-4.7 Cl-105 HCO3-24 AnGap-13
___ 07:24AM BLOOD Calcium-8.3* Phos-4.1 Mg-1.___ w/ PMH of cauda equina syndrome s/p L4-L5 laminectomy 
(residual fecal incontinence and urinary incontinence, for which 
he straight caths), CHFpEF, HTN, HLD, ___ vascular insufficiency 
and other issues who came to the ED with persistent hiccups and 
was found to have new ___ (Cr 2.8 from baseline 1.2), Klebsiella 
UTI, and ___ of unclear etiology.

ACTIVE ISSUES:
#ERROR!

# Hiccups: 
No clear etiology found.  CT chest, thyroid US, RUQ US, and 
trial of ear cleaning all unrevealing.  Thorazine and 
metoclopramide were trialed; neither helped with hiccups, but 
Baclofen appeared to offer some relief. Neurology was consulted 
and recommended MRI head and C-spine to evaluate for C-spine 
etiology given R scapular winging and L ptosis; given that his 
hiccups improved, this was deferred for outpatient workup. 

# ___:
Thought to be pre-renal, Cr 2.8 on admission up from baseline 
1.2.  Improved with IVF.  Cr 1.5 on discharge.

# Klebsiella UTI:
Completed 7d course of antibiotics (initially zosyn, then 
narrowed to Cipro).  Rectal exam without evidence of 
prostatitis.

# ___:
Unclear etiology, hepatitis serologies, HIV serology, and RUQ US 
all negative.  Possibly viral syndrome causing hepatitis vs. 
NASH.  Outpatient workup.

CHRONIC ISSUES:
#ERROR!

# CHFpEF:
Patient with no mild peripheral edema of LEs and LUE on this 
admission, pulmonary status stable.

# HTN: 
Patient was on Lisinopril 40, Amlodipine 10, and  HCTZ 25 mg.  
These were all held due to normotension at discharge and may be 
restarted as clinically indicated

# Cauda equina syndrome:
Patient maintained on Q6H straight cath schedule.  Would benefit 
from scheduled bowel regimen to prevent constipation.

TRANSITIONAL ISSUES:
#ERROR!
- Patient with ___ (ALT/AST in the ~100-140s with 
normal alk phos and normal T bili) of unclear etiology. 
Hepatitis serologies and HIV testing were all negative, and RUQ 
US was negative. He should have an outpatient workup for other 
causes of ___. Please recheck LFTs on ___ to 
determine stability.
- Cr slightly above baseline (1.5 compared with 1.2). This was 
most likely pre-renal. Cr should be rechecked on or around 
___ to determine stability and further workup as necessary.
- Patient's Hepatitis B surfance antibody assay was negative - 
if clinically indicated, he should receive the vaccination 
series as an outpatient.
- If the patient's hiccups do not resolve with conservative 
therapy (one month of Baclofen 10 mg PO TID), he should undergo 
an MRI of the brain and cervical spine, given evidence of R 
scapular winging and L ptosis on exam.  Thorazine worsened 
delirium, would avoid - use Baclofen instead.  
- Patient's home antihypertensives were all held at discharge 
given normotension. They may be restarted as clinically 
indicated
- Patient straight caths q6 hours due to cauda equina syndrome, 
and has fecal incontinence at baseline. He would benefit from a 
regular bowel regimen to prevent constipation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. oxybutynin chloride 10  oral DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Amlodipine 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Baclofen 10 mg PO TID 
Discontinue on ___ 
3. Omeprazole 20 mg PO DAILY 
4. oxybutynin chloride 10  oral DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Persistent hiccups, acute kidney injury, urinary tract 
infection, ___

Secondary: Cauda equina syndrome, diastolic congestive heart 
failure, hypertension, urinary incontinence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital with 
persistent hiccups, worsening kidney function, and a fever.  We 
found that you had a urinary tract infection, which was the most 
likely cause of your fever.  However, it is also possible that 
your fever was due to a viral infection that affected your liver 
(your liver function tests were slightly abnormal).  
Unfortunately, it is not possible to determine which of these 
infections caused your fever.  You completed a 7 day course of 
antibiotics for your urinary tract infection, and fortunately, 
your fevers resolved.  

While you were here, we determined that the most likely cause of 
your decreased renal function was dehydration.  This most likely 
happened because of your infection.  We gave you fluids through 
the IV, and your renal function improved.  

Regarding your hiccups, we did an extensive evaluation to find 
the cause and we couldn't find any.  We performed imaging tests 
of your chest, thyroid, and head, and found no explanation.  Our 
neurologists evaluated you, but by that time, your hiccups 
seemed to have stopped on their own.  We are discharging you 
with a medication to help suppress hiccups, and if your hiccups 
recur, your primary care physician can investigate further.  

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___